US08334287B2
4-[4-(2-chloro-pyridin-4-ylethynyl)-2,5-dimethyl-imidazol-1-yl]-1-ethyl-1H-pyridin-2-one
The title compound, light brown solid, MS: m/e=353.3, 355.2 (M+H+), was prepared in accordance with the general method of example 3 from 4-[4-(2-chloro-pyridin-4-ylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one and ethyl iodide.

reactant | 4-[4-(2-chloro-pyridin-4-ylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C17H13ClN4O
reactant | ethyl iodide | C(C)I | C2H5I
product | 4-[4-(2-chloro-pyridin-4-ylethynyl)-2,5-dimethyl-imidazol-1-yl]-1-ethyl-1H-pyridin-2-one | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1C)C1=CC(N(C=C1)CC)=O)C | C19H17ClN4O
